US05576343
8.13 g of 5-bromosalicylaldehyde was dissolved in 100 ml of acetone, followed by the addition of 6.7 g of anhydrous potassium carbonate. With stirring at room temperature, 5.0 g of N,N-dimethylthiocarbamoyl chloride was added to the above solution, and the stirring was continued for two hours. The resulting reaction solution was poured into ice water, and crystals thus precipitated were collected by filtration, and dried to obtain 9.2 g of 5-bromo-2-[(N,N-dimethylthiocarbamoyl)oxy]benzaldehyde.

reactant | 5-bromosalicylaldehyde | 8.13 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | potassium carbonate | 6.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylthiocarbamoyl chloride | 5.0 g | CN(C(=S)Cl)C | C3H6ClNS
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 5-bromo-2-[(N,N-dimethylthiocarbamoyl)oxy]benzaldehyde | 9.2 g | BrC=1C=CC(=C(C=O)C1)OC(N(C)C)=S | C10H10BrNO2S
